US05998433
b) Synthesis of N,N-dimethyl-[6-[4-(3,5-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-[4-(3,5-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.140 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This mixture was then concentrated and washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-[4-(3,5-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.140 g | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC(=CC(=C2)Cl)Cl)=O)=O)O1 | C24H22Cl2N2O3
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-[4-(3,5-dichlorobenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC(=CC(=C2)Cl)Cl)=O)=O)O1 | InChI=1S/C24H22Cl2N2O3.ClH/c1-27(2)13-21-11-17-7-8-28(14-22(17)31-21)24(30)16-5-3-15(4-6-16)23(29)18-9-19(25)12-20(26)10-18;/h3-6,9-12H,7-8,13-14H2,1-2H3;1H
